US05013863
A mixture of 4.55 g of anhydrous triethylamine and 5.0 g of ethyl ethylphosphinate in 100 ml of anhydrous tetrahydrofuran under an inert atmosphere is treated with 4.89 g of chlorotrimethylsilane. The resulting suspension is stirred for 20 hours at room temperature and the solid removed by filtration. Concentration in vacuo affords a cloudy, colourless oil which is treated with 5.10 g of anhydrous N-(2,3-epoxypropyl)phthalimide and 1.0 g of anhydrous zinc chloride. The mixture is heated to 66° C. under an inert atmosphere for 3 hours, cooled to 20° and diluted with dichloromethane. The organic solution is washed with 100 ml of a 10% aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulphate. Removal of the solvents and chromatography on silica gel affords ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(ethyl)phosphinate as a viscous oil.

reactant | triethylamine | 4.55 g | C(C)N(CC)CC | C6H15N
reactant | ethyl ethylphosphinate | 5.0 g | C(C)P(OCC)=O | C4H11O2P
reactant | chlorotrimethylsilane | 4.89 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-(2,3-epoxypropyl)phthalimide | 5.10 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc chloride | 1.0 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(ethyl)phosphinate | C1(C=2C(C(N1CC(CP(OCC)(=O)CC)O[Si](C)(C)C)=O)=CC=CC2)=O | C18H28NO5PSi
